US06861424B2
To a solution of 2-[(4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl](ethoxycarbonylmethyl)aminocarbonyl-4-methoxyquinoline (30 mg, 0.06 mmol) in ethanol (1.0 mL), was added a solution of LiOH (6 mg, 0.12 mmol) in water (1.0 mL). The resulting reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was acidified to pH 3 by 2N NaHSO4, extracted by ethyl acetate (3×20 mL), dried over sodium sulfate, and concentrated in vacuo to afford 2-[(4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl](carboxymethyl)aminocarbonyl-4-methoxyquinoline (25 mg) as a solid; NMR (DMSO-d6), 1.20 (m, 3), 3.20-3.60 (m, 8), 4.00-4.14 (m, 5), 4.20 (s, 1), 4.35 (s, 1), 4.50 (s, 1), 4.70 (s, 1), 7.23 (d, 1), 7.65 (m, 1), 7.80-7.94 (m, 2), 8.17 (m, 1) ppm.

reactant | 2-[(4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl](ethoxycarbonylmethyl)aminocarbonyl-4-methoxyquinoline | 0.06 mmol, 30 mg | C(C)OC(=O)N1CCN(CC1)C(=O)CC1=NC2=CC=CC=C2C(=C1C(=O)NCC(=O)OCC)OC | C24H30N4O7
reactant | LiOH | 0.12 mmol, 6 mg | [Li+].[OH-]
reactant | NaHSO4 | 2N | OS(=O)(=O)[O-].[Na+]
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | water | 1.0 mL | O | H2O
product | 2-[(4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl](carboxymethyl)aminocarbonyl-4-methoxyquinoline | 25 mg | C(C)OC(=O)N1CCN(CC1)C(=O)CC1=NC2=CC=CC=C2C(=C1C(=O)NCC(=O)O)OC | C22H26N4O7
